US05254559
Preparation of 4-bromo-2-(p-chlorophenyl)-1-[(imidazol-2-ylthio)methyl]-5-trifluoromethylpyrrole-3-carbonitrile hydrobromide
A mixture of 4-bromo-1-(bromomethyl)-2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile (0.88 g, 0.002 mol) and 4-imidazoline-2-thione (0.23 g, 0.002 mol) in isopropanol is heated at reflux temperature for 3 hours, cooled to room temperature and filtered. The filtercake is washed with isopropanol and air-dried to give the title product as a white solid, 0.81 g (75% yield), mp 221°-223° C.(dec).

reactant | 4-bromo-1-(bromomethyl)-2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 0.002 mol, 0.88 g | BrC=1C(=C(N(C1C(F)(F)F)CBr)C1=CC=C(C=C1)Cl)C#N | C13H6Br2ClF3N2
reactant | 4-imidazoline-2-thione | 0.002 mol, 0.23 g | N1C(NC=C1)=S | C3H4N2S
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-bromo-2-(p-chlorophenyl)-1-[(imidazol-2-ylthio)methyl]-5-trifluoromethylpyrrole-3-carbonitrile hydrobromide | 75% yield | Br.BrC=1C(=C(N(C1C(F)(F)F)CSC=1NC=CN1)C1=CC=C(C=C1)Cl)C#N | InChI=1S/C16H9BrClF3N4S.BrH/c17-12-11(7-22)13(9-1-3-10(18)4-2-9)25(14(12)16(19,20)21)8-26-15-23-5-6-24-15;/h1-6H,8H2,(H,23,24);1H
